US07875715B2
Intermediate 181: N-(3-Bromo-5-fluorophenyl)acetamide
A mixture of acetamide (2.8 g, 47.2 mmol), palladium acetate (0.50 g, 0.80 mmol), XANTPHOS (0.68 g, 1.2 mmol) and cesium carbonate (18 g, 55.2 mmol) was degassed and purged with nitrogen twice. Dry dioxane (50 mL) was added followed by 1,3-dibromo-5-fluorobenzene (10 g, 39.4 mmol). The reaction was heated to 105° C. overnight and then allowed to cool to room temperature. Dichloromethane was added and the mixture was stirred vigorously for 1 hr. The mixture was filtered. The filtrate was concentrated to dryness. Chromatography on silica gel with 25% ethyl acetate in hexanes gave 4.0 g (44%) of the product as a colorless solid.

reactant | acetamide | 47.2 mmol, 2.8 g | C(C)(=O)N | C2H5NO
reactant | cesium carbonate | 55.2 mmol, 18 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,3-dibromo-5-fluorobenzene | 39.4 mmol, 10 g | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
catalyst | palladium acetate | 0.80 mmol, 0.50 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | XANTPHOS | 1.2 mmol, 0.68 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | Dichloromethane | ClCCl | CH2Cl2
product | N-(3-Bromo-5-fluorophenyl)acetamide | 4.0 g, 44% | BrC=1C=C(C=C(C1)F)NC(C)=O | C8H7BrFNO
